US05696159
A solution of 0.05 mol of methyl 3-hydroxy-2-methyl-5-nitro-3-indenylacetate, 0.2 mol of 38% aqueous formaldehyde and 2 ml of acetic acid in 100 ml ethanol is reduced catalytically in the presence of a 10% Pd/C catalyst under 40 lb. p.s.i. hydrogen pressure at room temperature. The solution is filtered, evaporated and chromatographed on 300 g of silica gel to give methyl 5-methylamino-3-hydroxy-2-methyl-3-indenylacetate. The hydroxy ester is then dehydrated to methyl 5-dimethylamino-2-methyl-3-indenylacetate.

reactant | methyl 3-hydroxy-2-methyl-5-nitro-3-indenylacetate | 0.05 mol | OC1(C(=CC2=CC=C(C=C12)[N+](=O)[O-])C)CC(=O)OC | C13H13NO5
reactant | formaldehyde | 0.2 mol | C=O | CH2O
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | methyl 5-methylamino-3-hydroxy-2-methyl-3-indenylacetate | CNC=1C=C2C(C(=CC2=CC1)C)(O)CC(=O)OC | C14H17NO3
